US08258158B2
This material was prepared in analogy to example 8 step C) from piperidine-4-carboxylic acid (4-trifluoromethoxy-phenyl)-amide (0.144 g) and 4,4-dimethyl-pentanoic acid (0.065 g) to give the desired 1-(4,4-dimethyl-pentanoyl)-piperidine-4-carboxylic acid (4-trifluoromethoxy-phenyl)-amide (0.178 g) as an off-white solid. MS (ESI): 401.25 (MH+).

reactant | piperidine-4-carboxylic acid (4-trifluoromethoxy-phenyl)-amide | 0.144 g | FC(OC1=CC=C(C=C1)NC(=O)C1CCNCC1)(F)F | C13H15F3N2O2
reactant | 4,4-dimethyl-pentanoic acid | 0.065 g | CC(CCC(=O)O)(C)C | C7H14O2
product | 1-(4,4-dimethyl-pentanoyl)-piperidine-4-carboxylic acid (4-trifluoromethoxy-phenyl)-amide | 0.178 g | FC(OC1=CC=C(C=C1)NC(=O)C1CCN(CC1)C(CCC(C)(C)C)=O)(F)F | C20H27F3N2O3
